US08138187B2
Indole Unit Ind-49
3-Pyridin-2-ylmethyl-1H-indole (Ind-49) A 2 M solution of borane-dimethyl sulfide complex (20 ml, 40 mmol) was added to a solution of 3-hydroxy-3-pyridin-2-ylmethyl-1,3-dihydroindol-2-one (4.80 g, 20 mmol) in anhydrous tetrahydrofuran (250 ml) and the mixture was stirred at room temperature overnight. Methanol (10 ml) was cautiously added to the reaction mixture and the mixture was concentrated i. vac. Methanol was repeatedly added to the residue, the mixture was in each case concentrated again i. vac., and the residue was taken up in 1N hydrochloric acid. The aqueous suspension was extracted with ethyl acetate (2×40 ml). The aqueous phase was adjusted to pH 10 with saturated potassium carbonate solution and extracted with ethyl acetate (3×30 ml). The combined organic phases were dried with sodium sulfate and concentrated i. vac. The crude product (4.0 g) was purified by flash chromatography (400 g, 20×7.6 cm) first with ethyl acetate/cyclohexane (2:1) and then chloroform.

reactant | 3-Pyridin-2-ylmethyl-1H-indole | N1=C(C=CC=C1)CC1=CNC2=CC=CC=C12 | C14H12N2
reactant | 3-hydroxy-3-pyridin-2-ylmethyl-1,3-dihydroindol-2-one | 20 mmol, 4.80 g | OC1(C(NC2=CC=CC=C12)=O)CC1=NC=CC=C1 | C14H12N2O2
reactant | Methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | Indole | N1C=CC2=CC=CC=C12 | C8H7N
